US05914402
Preparation of 1-(2-methyl-4-methoxyphenyl) -4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline
4-Oxo-6-methoxy-2,3-dihydrofuro[3,2-c]quinoline (217 mg, 1.0 mmol) was dissolved in 10 ml of ethylene glycol and 4-methoxy-2-methylaniline (322 μl, 2.5 mmol) was added under nitrogen. The reaction mixture was heated at 210° C. for 15 hours. The reaction mixture was diluted with 20 ml of salt water and the aqueous layer was extracted with methylene chloride (15 ml×3). After washing with water (15 ml×3), the organic layer was dried by anhydrous magnesium sulfate and filtered, and concentrated under reduced pressure. The residue was purified with ethyl acetate as eluent by silica gel chromatography to obtain 270 mg of desired compound as solid in 81% of yield.

reactant | 4-Oxo-6-methoxy-2,3-dihydrofuro[3,2-c]quinoline | 1.0 mmol, 217 mg | O=C1N=C2C(=CC=CC2=C2C1CCO2)OC | C12H11NO3
reactant | 4-methoxy-2-methylaniline | 2.5 mmol, 322 μl | COC1=CC(=C(N)C=C1)C | C8H11NO
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 1-(2-methyl-4-methoxyphenyl) -4-oxo-6-methoxy-2,3,4,5-tetrahydropyrrolo[3,2-c]quinoline | 270 mg | CC1=C(C=CC(=C1)OC)N1CCC=2C(NC=3C(=CC=CC3C21)OC)=O | C20H20N2O3
